US05824691
The mixture of ethyl 3-aminobenzoate (3.0 g), tri(ethoxy)methane (3.0 ml) and sodium azide (1.2 g) in acetic acid (30 ml) was stirred for 5 hours at 60°-70° C. To the reaction mixture was added water and the mixture was adjusted to pH 8 with potassium carbonate. The isolated precipitate was collected by filtration and the precipitate was dissolved in a mixture of ethyl acetate and tetrahydrofuran. The mixture was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of ethanol and diisopropyl ether to give ethyl 3-(1H-tetrazol-1-yl)benzoate (2.44 g).

reactant | ethyl 3-aminobenzoate | 3.0 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | tri(ethoxy)methane | 3.0 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | sodium azide | 1.2 g | [N-]=[N+]=[N-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | ethyl 3-(1H-tetrazol-1-yl)benzoate | 2.44 g | N1(N=NN=C1)C=1C=C(C(=O)OCC)C=CC1 | C10H10N4O2
